US08378108B2
A mixture of benzyl 6-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridin-2-ylcarbamate (660 mg, 1.96 mmol, 1.0 eq) and Pd/C (80 mg 10% Pd loading, 40 mg/mmol) was loaded into a flask and purged with nitrogen. Ethanol (0.4 M) was added and the flask was charged with hydrogen (1 atm—balloon pressure). The reaction was stirred at room temperature for 90 minutes, and judged to be complete by TLC. The reaction mixture was filtered through celite, and concentrated under reduced pressure to give 395 mg (95%) of 6-(4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine. C10H11N5. 202.1 (M+1). 1H NMR (DMSO) d 8.14 (s, 1H), 7.54 (t, J=8 Hz, 1H), 7.46 (d, J=7 Hz, 1H), 6.60 (d, J=8 Hz, 1H), 4.70 (br s, 2H), 3.85-3.88 (m, 1H), 1.04-1.07 (m, 2H), 0.85-0.88 (m, 2H).

reactant | benzyl 6-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridin-2-ylcarbamate | 1.96 mmol, 660 mg, 1.0 eq | C1(CC1)N1C(=NN=C1)C1=CC=CC(=N1)NC(OCC1=CC=CC=C1)=O | C18H17N5O2
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 6-(4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine | 395 mg, 95% | C1(CC1)N1C(=NN=C1)C1=CC=CC(=N1)N | C10H11N5
